US05312840
N-(Adamantan-1-yl)-N'-(2-methylphenyl)guanidine
A suspension of adamantan-1-ylcyanamide (151 mg, 0.857 mmol) and o-toluidine hydrochloride (186 mg, 0.857 mmol) in dry chlorobenzene was heated between 100°-130° C. for 4.5 hrs. The chlorobenzene was evaporated in vacuo with heating and the residue (285 mg) taken up in 18 ml of water. A gummy, insoluble material was discarded. On adjusting the aqueous extract to pH 9-9.5, a precipitate formed (194 mg, 71%). Two recrystallizations from EtOH/H2O gave the analytical sample; mp 160°-161°, 1H (CD3OD) 1.742 (s, 6 H), 2.050 (d, 6H, J=2.4 Hz), 2.029 (s, 3 H), 6.956 (j, 1 H, J=8.1 Hz), 7.056 (t, 1H, J=8.1 Hz), 7.168 (t, 1H, J=7.5 Hz), 7.213 (d, 1H, J=7.5 Hz). Anal. Calcd for C18H25N3 : C, 76.28; H, 8.89; N, 14.83. Found: C, 76.25; H, 8.86; N, 14.60.

reactant | adamantan-1-ylcyanamide | 0.857 mmol, 151 mg | C12(CC3CC(CC(C1)C3)C2)NC#N | C11H16N2
reactant | o-toluidine hydrochloride | 0.857 mmol, 186 mg | Cl.NC=1C(=CC=CC1)C
solvent | chlorobenzene | ClC1=CC=CC=C1 | C6H5Cl
product | N-(Adamantan-1-yl)-N'-(2-methylphenyl)guanidine | C12(CC3CC(CC(C1)C3)C2)NC(=N)NC2=C(C=CC=C2)C | C18H25N3
